US05721234
5-Amino-6-bromo-4-nitro-2-pyrrolidin-1-yl-indane
A mixture of 2,5-diamino-6-bromo-4-nitroindane hydrochloride (1.5 g, 5 mmol), 1-4-dibromobutane (1.3 g, 6 mmol) and diisopropylethylamine (1.9 g, 15 mmol) in DMF (100 mL) was heated at 70° C. for 24 h. The solvent was evaporated and the residue taken up in methylene chloride:water. The aqueous layer was basified with 1N NaOH and back extracted. The combined organic layers were dried over sodium sulfate, filtered and evaporated to give a dark syrup. The purified product (0.5 g) was obtained from column chromatography (4:1 EtOAc:methanol).

reactant | 2,5-diamino-6-bromo-4-nitroindane hydrochloride | 5 mmol, 1.5 g | Cl.NC1CC2=CC(=C(C(=C2C1)[N+](=O)[O-])N)Br
reactant | diisopropylethylamine | 15 mmol, 1.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | methanol | CO | CH4O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5-Amino-6-bromo-4-nitro-2-pyrrolidin-1-yl-indane | 0.5 g | NC=1C(=C2CC(CC2=CC1Br)N1CCCC1)[N+](=O)[O-] | C13H16BrN3O2
